US04563524
A mixture of 4-(2-hydroxyethyl)thiosemicarbazide (10.3 g), benzyl chloride (10.6 g), water (30 ml) and methanol (60 ml) was stirred for 20 hours at room temperature to give a homogeneous solution containing benzyl N-(2-hydroxyethyl)thiocarbazimidate. The solution was ice-cooled and thereto was little by little added sodium nitrite (5.24 g) with stirring and then dropwise added conc. hydrochloric acid (3.5 ml) over a period of 30 mimetes. The resulting mixture was stirred for an hour under ice-cooling. To the reaction mixture were added potassium carbonate (18 g) and water (30 ml). The mixture was stirred and then concentrated under reduced pressure. The concentrate was extracted with chloroform and the extract was washed with water, dried over magnesium sulfate and then evaporated under reduced pressure. The residual oil was subjected to column chromatography on silica gel. The fractions containing the object compound were collected to give an oil of 1-(2-hydroxyethyl)-5-benzylthio-1H-tetrazole (12.1 g).

reactant | 4-(2-hydroxyethyl)thiosemicarbazide | 10.3 g | OCCNC(NN)=S | C3H9N3OS
reactant | benzyl chloride | 10.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl N-(2-hydroxyethyl)thiocarbazimidate | OCCN=C(NN)SCC1=CC=CC=C1 | C10H15N3OS
reactant | sodium nitrite | 5.24 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 3.5 ml | Cl | ClH
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-(2-hydroxyethyl)-5-benzylthio-1H-tetrazole | 12.1 g | OCCN1N=NN=C1SCC1=CC=CC=C1 | C10H12N4OS
